US08685980B2
Following General Procedure D, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and 1-bromo-2-methyl butane (103 mg, 0.690 mmol) gave 7-cyclopentyl-2-{5-[4-(2-methyl-butyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (50 mg, 42%). MS (ESI) m/z 505.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | 1-bromo-2-methyl butane | 0.690 mmol, 103 mg | BrCC(CC)C | C5H11Br
product | 7-cyclopentyl-2-{5-[4-(2-methyl-butyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 50 mg, 42% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)CC(CC)C)N1C1CCCC1)C | C28H40N8O
